US08202885B2
To a solution of 1.35 g of tert.-butoxycarbonyl-methylamino-propanoic acid in 50 mL DCM were added 3.4 mL of DIPEA, 81 mg of DMAP, 1.0 g of HOBt, 1.5 g of EDC and 0.91 g of 3-methoxybenzene-1,2-diamine. The resulting mixture was stirred at rt for 3 h and then quenched with water. The organic phase was washed with sat. aq. NaHCO3, dried over MgSO4 and concentrated on vacuo to yield 2.9 g of [2-(2-amino-3-methoxy-phenylcarbamoyl)-ethyl]-methyl-carbamic acid tert.-butyl ester as brown oil.

reactant | tert.-butoxycarbonyl-methylamino-propanoic acid | 1.35 g | C(C)(C)(C)OC(=O)C(C(=O)O)(C)NC | C9H17NO4
reactant | DIPEA | 3.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 1.0 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-methoxybenzene-1,2-diamine | 0.91 g | COC1=C(C(=CC=C1)N)N | C7H10N2O
reactant | EDC | 1.5 g
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 81 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | [2-(2-amino-3-methoxy-phenylcarbamoyl)-ethyl]-methyl-carbamic acid tert.-butyl ester | 2.9 g | C(C)(C)(C)OC(N(C)CCC(NC1=C(C(=CC=C1)OC)N)=O)=O | C16H25N3O4
